US06140512
Under an argon atmosphere, triethylamine (0.7 ml, 5.05 mmol) and methanesulfonyl chloride (0.3 ml, 3.71 mmol) were added to a solution of (±)-methyl 6,8-dihydroxyoctanoate (320 mg, 1.68 mmol) in dichloromethane (8.4 ml) at 0° C. The mixture was stirred at 0° C. for 30 min, then quenched with ice water (20 ml) and extracted with dichloromethane (20 ml). The organic extract was washed with 2 M hydrochloric acid (20 ml), saturated sodium bicarbonate solution (20 ml) and brine (20 ml). The organic phase was dried over magnesium sulphate and the solvent was evaporated under reduced pressure to give the crude product which was purified using flash column chromatography with hexane-ethyl acetate (2:3) to give (±)-methyl 6,8-bis(methylsulfonyloxy)octanoate (581 mg, 99% yield) as a clear yellow oil. Rf 0.30 (hexane-ethyl acetate, 3:2).

reactant | triethylamine | 5.05 mmol, 0.7 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 3.71 mmol, 0.3 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | (±)-methyl 6,8-dihydroxyoctanoate | 1.68 mmol, 320 mg | OC(CCCCC(=O)OC)CCO | C9H18O4
solvent | dichloromethane | 8.4 ml | ClCCl | CH2Cl2
product | (±)-methyl 6,8-bis(methylsulfonyloxy)octanoate | 581 mg, 99% yield | CS(=O)(=O)OC(CCCCC(=O)OC)CCOS(=O)(=O)C | C11H22O8S2
